US05958910
A mixture of 0.5 g of 4-(4-methoxy-phenyl)-thiazol-2-ylamine hydrobromide with 0.37 g of p-toluenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 30 ml of 1N hydrochloric acid and the mixture was extracted twice with 40 ml of ethyl acetate each time. The organic phases were combined, dried with magnesium sulphate and the solvent was removed on a rotary evaporator. The residue was dissolved in a mixture of 20 ml of ethanol and 20 ml of 2N sodium hydroxide solution. After the addition of 0.4 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. The product separated upon neutralization with concentrated hydrochloric acid. Recrystallization from 30 ml of 50% ethanol yielded 0.24 g of N-[4-(4-methoxy-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide as beige crystals.

reactant | 4-(4-methoxy-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.COC1=CC=C(C=C1)C=1N=C(SC1)N
reactant | p-toluenesulfonyl chloride | 0.37 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-methoxy-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 0.24 g | COC1=CC=C(C=C1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C17H16N2O3S2
